US07205292B2
Step C. 3-(4-Piperidinyl)quinolin-2-(1H)-one
A solution of 3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-(1H)-one (4.00 g, 12.6 mmol) in methanol (500 mL) was degassed with argon, and 10% palladium on carbon (1.2 g) added. The reaction was placed under 1 atm hydrogen and heated to 50° C. for 5.5 h. The reaction was cooled and filtered through celite. Concentration provided the title compound, 2.7 g. MS 229 (M+1). 1H NMR (500 MHz, CD3OD) δ 7.80 (s, 1H), 7.67 (d, J=8 Hz, 1H), 7.51 (t, J=8 Hz, 1H), 7.33 (d, J=8 Hz, 1H), 7.25 (t, J=8 Hz, 1H), 3.52 (t, J=12 Hz, 2H), 3.17 (dt, J=3, 13 Hz, 2H), 3.15 (m, overlaps with δ 3.17 peak, 1H), 2.18 (d, J=14 Hz, 2H), 1.91 (dq, J=3, 12 Hz, 2H).

reactant | 3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-2-(1H)-one | 12.6 mmol, 4.00 g | C(C1=CC=CC=C1)N1CCC(=CC1)C=1C(NC2=CC=CC=C2C1)=O | C21H20N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 mL | CO | CH4O
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
product | 3-(4-Piperidinyl)quinolin-2-(1H)-one | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
